US06509349B1
8-[3-(N-boc-aminoethyl)pyrrolidinyl]-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester
Ethyl-8-chloro-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate (Precursor A) (0.151 g) and triethylamine (0.5 ml) are dissolved in acetonitrile (6 ml). To this solution 3-(N-boc-aminoethyl)pyrrolidine (Precursor D) (0.215 g) is added and the solution stirred at 40° C. for 18 hours. The solvent is evaporated and the residue dissolved in dichloromethane, washed with 1N hydrochloric acid and dried over sodium sulfate. The desired product is obtained by evaporation of the solvent.

reactant | Ethyl-8-chloro-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylate | C(C)OC(=O)C1=CC(=C2C(=C(C=CN2C1=O)Cl)OC)CC | C15H16ClNO4
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(N-boc-aminoethyl)pyrrolidine | 0.215 g | C(=O)(OC(C)(C)C)NCCC1CNCC1 | C11H22N2O2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 8-[3-(N-boc-aminoethyl)pyrrolidinyl]-1-ethyl-9-methoxy-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C=CN2C1=O)N1CC(CC1)CCNC(=O)OC(C)(C)C)OC)CC | C26H37N3O6
